US05118681
To a slurry of 75 g (0.185 mol) of N,N'-bis-(n-heptyl)-3,3'-dithiodipropionamide in 600 ml of toluene was added 39.4 g (0.555 mol) of chlorine over a one hour period at 25°-40° C. The mixture was stirred for one additional hour and cooled to room temperature. The yellow solution was washed with water and the toluene phase was dried over magnesium sulfate and concentrated. The residual oil was dissolved in ether and then saturated with HCl gas. The resulting solid precipitate was removed by filtration and dissolved in water. The aqueous solution was extracted several times with ether. The combined ether extracts were dried over magnesium sulfate and concentrated under reduced pressure to give 30.7 g (83% yield) of the 2-n-heptyl-4-isothiazolin-3-one intermediate as a heavy, colorless oil which was not distilled.

reactant | N,N'-bis-(n-heptyl)-3,3'-dithiodipropionamide | 0.185 mol, 75 g | C(CCCCCC)NC(CCSSCCC(=O)NCCCCCCC)=O | C20H40N2O2S2
reactant | chlorine | 0.555 mol, 39.4 g | ClCl | Cl2
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 2-n-heptyl-4-isothiazolin-3-one | 30.7 g, 83% yield | C(CCCCCC)N1SC=CC1=O | C10H17NOS
